US04839377
(i) Ethyl [[[3-(cyanomethyl)-1H-indol-5-yl]amino]thiocarbonyl]carbamate
Ethoxycarbonyl isothiocyanate (1.2 ml) was added dropwise to a stirred solution of 5-amino-1H-indole-3-acetonitrile (1.7 g) in dry acetonitrile (50 ml). After 10 min. the resulting suspension was diluted with water (40 ml) and stirred for 20 min.

reactant | Ethoxycarbonyl isothiocyanate | 1.2 ml | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | 5-amino-1H-indole-3-acetonitrile | 1.7 g | NC=1C=C2C(=CNC2=CC1)CC#N | C10H9N3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | 40 ml | O | H2O
product | Ethyl [[[3-(cyanomethyl)-1H-indol-5-yl]amino]thiocarbonyl]carbamate | C(#N)CC1=CNC2=CC=C(C=C12)NC(=S)NC(OCC)=O | C14H14N4O2S
